US04083815
A mixture of 495.7 g. (3.95 equivalents) of 4,4'-methylenebis(phenyl isocyanate) and 2.81 g. (0.038 equivalents) of 1-butanol was heated at 50° C for 3 hours. A portion (131.2 g.) of the resulting mixture was then added, with vigorous agitation, to a portion (306.8 g.) of the above polyol blend to which had been added 0.09 g. of stannous octoate. The resulting mixture was poured into a tray and cured by heating at 70° C for 20 hours. The resulting elastomer, which had a hardness of 45 Shore D, was chopped into granules and heated with 657 g. of Cellosolve acetate at 155° C until a clear solution was obtained (about 1 hour heating). The resulting coating composition, containing 40% w/w of elastomer, had a viscosity of 14,900 cps. at 25° C. A film was cast from this solution and found to have a tensile strength of 2100 psi and an elongation at break of 820%.

reactant | 4,4'-methylenebis(phenyl isocyanate) | 3.95 equivalents | C1=CC(=CC=C1CC2=CC=C(C=C2)N=C=O)N=C=O | C15H10N2O2
reactant | 1-butanol | 0.038 equivalents | C(CCC)O | C4H10O
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
product | Cellosolve acetate | CCOCCOC(=O)C | C6H12O3
